US05859007
To a stirring solution of 500 mg (1.3 mmol) 2-(2,4-Dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide in 5 mL DMF is added 248 mg (3.9 mmol, 3 equiv) of Cu powder, 255 mg (2.6 mmol, 2 equiv) of potassium acetate, and 289 μL (2.6 mmol, 2 equiv) of 1-bromo-3-fluorobenzene. The reaction is heated to 100° C., and after 3 h an additional 289 μL (2.6 mmol, 2 equiv) of 1-bromo-3-fluorobenzene and 248 mg (3.9 mmol, 3 equiv) of Cu powder were added. The reaction is heated at 100° C. for 20 h then is poured onto ice. Dichloromethane is added, and the mixture is filtered through celite. The filtrate is poured into a separatory funnel, and the layers separated. 2 mL of a 30% solution of NH4OH were added to the aqueous layer, and the resulting blue solution is extracted with dichloromethane. The combined organics were dried (Na2SO4), filtered and concentrated. The residue is purified by silica gel flash column chromatography (gradient 2:1-1:1 hexanes:ethyl acetate) to afford 497 mg of 2-[5-(3-Fluoro-phenyl)-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide as an off-white solid: 1H NMR (CDCl3, 400 MHz) δ7.45-7.25 (m, 4H), 7.18-6.93 (m, 8H), 5.04 (m, 1H), 4.35 (d, 1H, J=16.3), 4.17 (d, 1H, J=16.1), 3.88 (s, 3H), 3.56 (dd, 2H, J=12.0, 29.8), 1.12 (d, 6H, J=6.8); low resolution MS (FAB)m/e 476 (MH+).

reactant | 2-(2,4-Dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.3 mmol, 500 mg | O=C1CC(NC2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)=O | C21H23N3O4
reactant | potassium acetate | 2.6 mmol, 255 mg, 2 equiv | C(C)(=O)[O-].[K+]
reactant | 1-bromo-3-fluorobenzene | 2.6 mmol, 289 μL, 2 equiv | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | 1-bromo-3-fluorobenzene | 2.6 mmol, 289 μL, 2 equiv | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[5-(3-Fluoro-phenyl)-2,4-dioxo-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 497 mg | FC=1C=C(C=CC1)N1C2=C(N(C(CC1=O)=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2 | C27H26FN3O4
